US08168793B2
To a stirred suspension of 3,4-dimethoxy-N-methyl-5-nitro-benzamide (0.40 g, 1.66 mmol) in toluene (10 mL) was added phosphorous pentachloride (0.38 g, 1.83 mmol) portionwise. Upon completion of addition, the reaction mixture was warmed to reflux till complete disappearance of starting material. Evaporation to dryness resulted in a crude solid that was washed with diethyl ether, affording 3,4-dimethoxy-N-methyl-5-nitro-benzimidoyl chloride, 0.37 g (85%).

reactant | 3,4-dimethoxy-N-methyl-5-nitro-benzamide | 1.66 mmol, 0.40 g | COC=1C=C(C(=O)NC)C=C(C1OC)[N+](=O)[O-] | C10H12N2O5
reactant | phosphorous pentachloride | 1.83 mmol, 0.38 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3,4-dimethoxy-N-methyl-5-nitro-benzimidoyl chloride | COC=1C=C(C(=NC)Cl)C=C(C1OC)[N+](=O)[O-] | C10H11ClN2O4
